US05424444
24d. N-Cbz-L-prolinal
To a stirred solution of N-Cbz-L-prolinol (5 g, 21.26 mmol, from steps 24b or 24c above)in 20 mL of anhydrous DMSO were added 8.89 mL (63.79 mmol) of triethylamine and 10.75 g (63.79 mmol) of SO3 -pyridine complex in 35 mL of DMSO. The reaction mixture was stirred at room temperature for 10 min, then poured into 200 mL of ice water. The mixture was extracted with ether, the extract was dried over Na2SO4 and concentrated to afford the title product, 3.058 g (70% yield).

reactant | N-Cbz-L-prolinol | C(=O)(OCC1=CC=CC=C1)N1[C@H](CO)CCC1 | C13H17NO3
reactant | triethylamine | 63.79 mmol, 8.89 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | N-Cbz-L-prolinal | 70% yield | C(=O)(OCC1=CC=CC=C1)N1[C@H](C=O)CCC1 | C13H15NO3
